US06048885
2-Aminoethanethiol hydrochloride (2.80 g, 24.6 mmol), zinc acetate dihydrate (600 mg, 2.7 mmol), toluene (12 ml) and triethylamine (3.12 g, 30.8 mmol) were added to 2-(2,5-dimethylphenoxymethyl)-α-methoxyiminophenylacetonitrile (6.00 g, 20.4 mmol), and the mixture was stirred under reflux for 14 hours. After completion of the reaction, water (100 ml) was added, and the mixture was extracted with ethyl acetate. The ethyl acetate layer was dried over anhydrous sodium sulfate and concentrated under reduced pressure. The residue was purified by silica gel chromatography (ethyl acetate/n-hexane) to give 2-(2,5-dimethylphenoxymethyl)phenyl 2-thiazolin-2-yl ketone O-methyloxime (5.71 g, 79.0%) as crystals.

reactant | 2-Aminoethanethiol hydrochloride | 24.6 mmol, 2.80 g | Cl.NCCS
reactant | toluene | 12 ml | C1(=CC=CC=C1)C | C7H8
reactant | triethylamine | 30.8 mmol, 3.12 g | C(C)N(CC)CC | C6H15N
reactant | 2-(2,5-dimethylphenoxymethyl)-α-methoxyiminophenylacetonitrile | 20.4 mmol, 6.00 g | CC1=C(OCC2=C(C=CC=C2)C(C#N)=NOC)C=C(C=C1)C | C18H18N2O2
catalyst | zinc acetate dihydrate | 2.7 mmol, 600 mg | O.O.C(C)(=O)[O-].[Zn+2].C(C)(=O)[O-]
solvent | water | 100 ml | O | H2O
product | 2-(2,5-dimethylphenoxymethyl)phenyl 2-thiazolin-2-yl ketone O-methyloxime | 5.71 g, 79.0% | CON=C(C1=C(C=CC=C1)COC1=C(C=CC(=C1)C)C)C=1SCCN1 | C20H22N2O2S
